US08217168B2
Preparation 4: 6-methyl-4-(phenylcarbonyl)-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione (P4)
3-[6-methyl-3,5-dioxo-4-(phenylcarbonyl)-4,5-dihydro-1,2,4-triazin-2(3H)-yl]propanal, Titanium (IV) isopropoxide (0.110 mL, 0.376 mmol) and (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (for reference preparation procedure see WO2005/080382, 62.6 mg, 0.276 mmol) were dissolved in 1,2-Dichloroethane (DCE) (9 mL) and the mixture was stirred at room temperature for 20 minutes. Afterwards the solution was cooled down to 0° C. and NaBH(AcO)3 (80 mg, 0.376 mmol) was added. The mixture was stirred at rt overnight. The day after it was quenched with water and diluted with DCM. The mixture was filtered and extracted; organic phase was washed with water and NaHCO3 saturated solution and solvent was eliminated under reduced pressure. Crude product was purified by flash chromatography (DCM to DCM/MeOH/NH3 9:1:0.1) affording the title compound 6-methyl-4-(phenylcarbonyl)-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione (102 mg, 0.143 mmol, 57.1% yield). 6-methyl-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione formed during the reaction was recovered (25 mg, 0.063 mmol).

reactant | 3-[6-methyl-3,5-dioxo-4-(phenylcarbonyl)-4,5-dihydro-1,2,4-triazin-2(3H)-yl]propanal | CC=1C(N(C(N(N1)CCC=O)=O)C(=O)C1=CC=CC=C1)=O | C14H13N3O4
reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | NaBH(AcO)3 | 0.376 mmol, 80 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-Dichloroethane | 9 mL | ClCCCl | C2H4Cl2
catalyst | Titanium (IV) isopropoxide | 0.376 mmol, 0.110 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 6-methyl-4-(phenylcarbonyl)-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.143 mmol, 102 mg, 57.1% yield | CC=1C(N(C(N(N1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)C(=O)C1=CC=CC=C1)=O | C26H25F3N4O3
